US07230031B2
4-(4-Benzyloxy-3-isopropylphenoxy)-5-bromo-7-nitroindane
The title compound was prepared in a similar manner to those described in Reference Example 8 using 5-bromo-7-nitroindan-4-ol instead of 5-methyl-7-nitroindan-4-ol and using bis(4-benzyloxy-3-isopropylphenyl)iodonium tetrafluoroborate instead of bis(4-methoxyphenyl)iodonium tetrafluoroborate.

reactant | 5-bromo-7-nitroindan-4-ol | BrC1=C(C=2CCCC2C(=C1)[N+](=O)[O-])O | C9H8BrNO3
reactant | bis(4-benzyloxy-3-isopropylphenyl)iodonium tetrafluoroborate | F[B-](F)(F)F.C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[I+]C1=CC(=C(C=C1)OCC1=CC=CC=C1)C(C)C)C(C)C
product | 4-(4-Benzyloxy-3-isopropylphenoxy)-5-bromo-7-nitroindane | C(C1=CC=CC=C1)OC1=C(C=C(OC2=C3CCCC3=C(C=C2Br)[N+](=O)[O-])C=C1)C(C)C | C25H24BrNO4
